US05403852
4.45 g of (RS)-7-[4,5-bis(4-chlorophenyl)-2-oxazolyl]-2-methylheptanenitrile in 40 cm3 of dimethylformamide are treated with twice 2.1 g of sodium azide and twice 4.4 g of triethylamine hydrochloride under the (time and temperature) conditions defined in Example 1. After treatment, the product of the reaction is chromatographed on a column 2.8 cm in diameter containing 115 g of silica gel (50 to 200μ). The column is eluted with 1.2 liters of diisopropyl ether and then with 2.8 liters of a diisopropyl ether/ethyl acetate (80:20 by volume) mixture, collecting 200 cm3 fractions. The fractions from the last eluent mixture are concentrated to dryness under reduced pressure (0.2 kPa). 2.7 g (55%) of (RS)-5-{7-[4,5-bis(4-chlorophenyl)-2-oxazolyl]-2-heptyl}-1H-tetrazole are obtained in the form of white crystals, melting point 144° C.

reactant | (RS)-7-[4,5-bis(4-chlorophenyl)-2-oxazolyl]-2-methylheptanenitrile | 4.45 g | ClC1=CC=C(C=C1)C=1N=C(OC1C1=CC=C(C=C1)Cl)CCCCCC(C#N)C | C23H22Cl2N2O
reactant | sodium azide | 2.1 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 4.4 g | Cl.C(C)N(CC)CC
solvent | dimethylformamide | 40 cm3 | CN(C=O)C | C3H7NO
product | (RS)-5-{7-[4,5-bis(4-chlorophenyl)-2-oxazolyl]-2-heptyl}-1H-tetrazole | 2.7 g, 55% | ClC1=CC=C(C=C1)C=1N=C(OC1C1=CC=C(C=C1)Cl)CCCCCC(C)C1=NN=NN1 | C23H23Cl2N5O
